* Functional timing models. Not transistor-level exact device models.
.model DSTD D(Is=2n Rs=.08 N=1.7 Cjo=25p Tt=20n)
.model DAO3400 D(Is=1n Rs=.06 N=1.5 Cjo=80p Tt=35n)
.model SWIDEAL SW(Ron=.04 Roff=1G Vt=2.5 Vh=.15)

* Open-collector comparator with input offset and finite propagation delay.
* Pins: noninv inv out; output requires an external pull-up.
.subckt OCMP noninv inv out params: VOS=0 TD=1u VOL=.15
BCTL ctl 0 V=delay(if(V(noninv)+VOS>V(inv),5,0),TD)
SOUT out nvol ctl 0 SWOC
VN nvol 0 {VOL}
.model SWOC SW(Ron=2 Roff=1G Vt=2.5 Vh=.02)
.ends OCMP

* Schmitt non-inverting/inverting gates with explicit thresholds and delay.
.subckt SCHMITT_BUF in out params: VTP=2.73 VTN=1.94 TD=6n
BOUT out 0 V=delay(if(V(in)>VTP,5,if(V(in)<VTN,0,V(out))),TD)
.ends SCHMITT_BUF
.subckt SCHMITT_INV in out params: VTP=2.73 VTN=1.94 TD=6n
BOUT out 0 V=delay(if(V(in)>VTP,0,if(V(in)<VTN,5,V(out))),TD)
.ends SCHMITT_INV

* Relay timing proxy: coil command is filtered by operate/release time.
* Output CONTACT is 5 V when the NO contact is closed.
.subckt RELAY_NO cmd contact params: TOP=10m TREL=10m
BCHG n 0 I=if(V(cmd)>2.5,-1/TOP,1/TREL)
CSTATE n 0 1 IC=0
DHI n limhi DSTD
VHI limhi 0 5
DLO 0 n DSTD
BCON contact 0 V=if(V(n)>2.5,5,0)
.ends RELAY_NO
